US07696223B2
a) 1-Benzyl-3-chloro-7-cyano-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
A mixture of 1-benzyl-3,7-dichloro-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester (155 mg), Zn(CN)2 (30 mg), Zn dust (3.3 mg), Pd2(dba)3 (19.4 mg), dppf (23.5 mg) in DMA (1.5 mL) was heated to 120° C. for 90 min; then the mixture was partitioned between EtOAc and water, the organic phase was then washed with sat. NaCl solution, dried over anhydrous sodium sulfate, filtered and concentrated sequentially to give a residue, which was purified with column to give desired title compound (100 mg). 1H NMR (200 MHz, CDCl3): δ(ppm)=12.16 (s, 1H), 7.4-7.1 (m, 6H), 5.71 (s, 2H), 4.53 (q, 2H, J=7.1 Hz), 1.49 (t, 3H, J=7.1 Hz).

reactant | 1-benzyl-3,7-dichloro-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 155 mg | C(C)OC(=O)C=1C(=C2C(=C(N1)Cl)N(C=C2Cl)CC2=CC=CC=C2)O | C17H14Cl2N2O3
reactant | DMA | 1.5 mL | CC(=O)N(C)C | C4H9NO
catalyst | Zn(CN)2 | 30 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Zn | 3.3 mg | [Zn] | Zn
catalyst | Pd2(dba)3 | 19.4 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dppf | 23.5 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 1-Benzyl-3-chloro-7-cyano-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 100 mg | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C=C2Cl)CC2=CC=CC=C2)O | C18H14ClN3O3
